US05480873
2-Amino-3-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)propanoic acid
A mixture of ethyl 2-acetamido-2-carboethoxy-3-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)propanoate (99.7 g) and 47% hydrobromic acid (1500 ml) was stirred at reflux for 6 hours. The mixture was cooled to room temperature and filtered. The isolated solid was stirred with 1N sodium hdroxide (1600 ml) for 15 minutes and the mixture filtered. The filtrate was cooled to 10° C. and acidified using glacial acetic acid (720 ml). The mixture was stirred for 10 minutes and then filtered. The isolated solid was washed with water (1 liter), pulled dry and then dried in vacuo at 60° C., m.p. 210°-212° C.

reactant | ethyl 2-acetamido-2-carboethoxy-3-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)propanoate | 99.7 g | C(C)(=O)NC(C(=O)OCC)(CC1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)O)=O)O)=O)C(=O)OCC | C24H23NO9
solvent | hydrobromic acid | 1500 ml | Br | BrH
product | 2-Amino-3-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)propanoic acid | NC(C(=O)O)CC1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)O)=O)O)=O | C17H13NO6
